US05525632
Step 1: Preparation of (Z)-1-(3-nitro-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethene
1.54 g of 3-nitro-4-methoxybenzaldehyde and 4.45 g of 3,4,5-trimethoxybenzyltriphenylphosphine bromide were dissolved in 40 ml of benzene, and a benzene solution containing 408 mg of sodium hydride dispersed therein was added thereto and reacted for 15 hours at room temperature (about 20°-30° C.). The reaction mixture was neutralized with acetic acid, saturated sodium chloride solution was added thereto, and the resulting liquid was extracted with dichloromethane. The extract was dried with anhydrous sodium sulfate, concentrated and then purified by silica gel column chromatography (ethyl acetate:hexane=1:2 by volume) to obtain 1.27 g of the intended compound. The yield of the product was 43%.

reactant | 3-nitro-4-methoxybenzaldehyde | 1.54 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1OC | C8H7NO4
reactant | 3,4,5-trimethoxybenzyltriphenylphosphine bromide | 4.45 g | [Br-].COC=1C=C(CP(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1OC)OC
reactant | sodium hydride | 408 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (Z)-1-(3-nitro-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl) ethene | 1.27 g | [N+](=O)([O-])C=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C18H19NO6
